US05051423
N-[2-[[2-Hydroxy-3-(4-(2-methoxyethyl)phenoxy)propyl]amino]ethyl]-4-(1H-imidazol-1-yl)benzamide
To a solution of 10 g (37.5 mmol) N-(2-aminoethyl)-4-(1H-imidazol-1-yl)benzamide hydrochloride in 50 mL methanol and 5 mL water with 1.69 g (42 mmol) sodium hydroxide, add 8.59 g(41.2 mmol) 1,2-epoxy-3-[4-(2-methoxyethyl)phenyl]propane. Heat the mixtureto 60° C. for about 18 h. Cool the reaction mixture to room temperature and remove the solvents in vacuo. The resulting oil is chromatographed on alumina (activity III) using CH2Cl2 :MeOH, 98:2. Combine the appropriate fractions and remove the solvents to give the title compound which can be recrystallized from ethyl acetate.

reactant | N-(2-aminoethyl)-4-(1H-imidazol-1-yl)benzamide hydrochloride | 37.5 mmol, 10 g | Cl.NCCNC(C1=CC=C(C=C1)N1C=NC=C1)=O
reactant | sodium hydroxide | 42 mmol, 1.69 g | [OH-].[Na+]
reactant | 1,2-epoxy-3-[4-(2-methoxyethyl)phenyl]propane | 41.2 mmol, 8.59 g | O1CC1CC1=CC=C(C=C1)CCOC | C12H16O2
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | N-[2-[[2-Hydroxy-3-(4-(2-methoxyethyl)phenoxy)propyl]amino]ethyl]-4-(1H-imidazol-1-yl)benzamide | OC(CNCCNC(C1=CC=C(C=C1)N1C=NC=C1)=O)COC1=CC=C(C=C1)CCOC | C24H30N4O4
